US06884821B1
1.5 g of N1-(5-formyl-2-methoxybenzyl)-4-(trifluoromethyl)benzamide was dissolved in 15 ml toluene, and 0.52 g of 2,4-thiazolidine dione, 36 mg pyrrolidine and 30 mg acetic acid were added thereto, and the mixture was heated under reflux for 2 hours with a Dean-Stark apparatus. After cooling to room temperature, the precipitated crystals were collected by filtration, washed with ethyl acetate and then dried, to give 1.4 g of N1-[5-[(2,4-dioxo-1,3-thiazolane-5-ylidene)methyl]-2-methoxybenzyl)-4-(trifluoromethyl)benzamide.

reactant | N1-(5-formyl-2-methoxybenzyl)-4-(trifluoromethyl)benzamide | 1.5 g | C(=O)C=1C=CC(=C(CNC(C2=CC=C(C=C2)C(F)(F)F)=O)C1)OC | C17H14F3NO3
reactant | 2,4-thiazolidine dione | 0.52 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | pyrrolidine | 36 mg | N1CCCC1 | C4H9N
reactant | acetic acid | 30 mg | C(C)(=O)O | C2H4O2
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | N1-[5-[(2,4-dioxo-1,3-thiazolane-5-ylidene)methyl]-2-methoxybenzyl)-4-(trifluoromethyl)benzamide | 1.4 g | O=C1SC(C(N1)=O)=CC=1C=CC(=C(CNC(C2=CC=C(C=C2)C(F)(F)F)=O)C1)OC | C20H15F3N2O4S
